US06498170B2
3-(2-{1-[4-(1,1-Dimethyl-propyl)-benzenesulfonyl]-piperidin-4-ylamino}-1-hydroxy-ethyl)-phenol
The title compound was prepared from 4-(1,1-dimethyl-propyl)-benzenesulfonyl-piperidin-4-one and norphenylephrine according to the reductive amination procedure of Intermediate 21 as an off-white solid; 1H NMR (DMSO) δ 0.60 (t, J=7.32 Hz, 3H), 1.28 (s, 6H), 1.60-1.68 (m, 2H), 1.77-1.91 (m, 2H), 2.27-2.45 (m, 4H), 2.51-2.56 (m, 2H), 2.56-2.59 (m, 2H), 3.42-3.47 (m, 2H), 4.42-4.44 (m, 2H), 5.18 (bs, 1H), 6.57-6.60 (m, 1H), 6.67-6.71 (m, 2H), 7.05 (t, J=7.74 Hz, 1H), 7.58 (d, J=8.61 Hz, 2H), 7.65 (d, J=8.58 Hz, 2H) 9.25 (s, 1H); MS (ES) m/z 446.9 (MH+); HRMS for C24H34N2O4S: 447.2323

reactant | 4-(1,1-dimethyl-propyl)-benzenesulfonyl-piperidin-4-one | CC(CC)(C)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)=O | C16H23NO3S
reactant | norphenylephrine | C1=CC(=CC(=C1)O)C(CN)O | C8H11NO2
product | 3-(2-{1-[4-(1,1-Dimethyl-propyl)-benzenesulfonyl]-piperidin-4-ylamino}-1-hydroxy-ethyl)-phenol | CC(CC)(C)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)NCC(O)C=1C=C(C=CC1)O | C24H34N2O4S
